US07482342B2
1-(2,4,6-Trimethylbenzenesulphonyl)-1H-indazole-3-carboxylic acid
NaH (60% in oil, 40 mmol) is washed under argon with petroleum ether and then suspended in 60 ml of anhydrous DMF. An indazole-3-carboxylic acid solution (3.35 g, 20 mmol) in anhydrous DMF (50 ml) is added dropwise to this suspension kept at 0° C. The reaction mixture becomes clear. When the addition is complete, the medium is allowed to react for 30 min at room temperature and then the reaction mixture is again cooled to 0° C. Mesitylenesulphonyl chloride (4.82 g, 22 mmol) in solution in anhydrous tetrahydrofuran (THF) (50 ml) is added. The ice bath is removed and a suspension appears. The medium is allowed to react for 30 min at room temperature. The solvents are evaporated under vacuum and the residue is taken up in 0.1N NaOH solution. The solution obtained is washed with diethyl ether and then acidified with 6N HCl. The compound which separates is filtered, and taken up in AcOEt. The AcOEt solution is dried over Na2SO4 and then evaporated. The residue (6.18 g) is recrystallized from AcOEt/petroleum ether.

reactant | NaH | 40 mmol | [H-].[Na+]
reactant | indazole-3-carboxylic acid | 20 mmol, 3.35 g | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | Mesitylenesulphonyl chloride | 22 mmol, 4.82 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(2,4,6-Trimethylbenzenesulphonyl)-1H-indazole-3-carboxylic acid | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N1N=C(C2=CC=CC=C12)C(=O)O | C17H16N2O4S
